US06693118B2
1a/ (1-benzyl-1,2,3,6-tetrahydropyrid-4-yl)tributylstannane.
A mixture of 15.85 g (0.0837 mole) of 1-benzyl-4-piperidone in 140 ml of anhydrous dimethoxyethane and g (0.0837 mole) of trisilidrazine in 140 ml of anhydrous dimethoxyethane is stirred at room temperature for 3 hours. The solvent is evaporated off under reduced pressure. The residue is taken up into 420 ml of anhydrous hexane and 420 ml of anhydrous tetramethylethylenediamine are added thereto. The mixture is cooled to −78° C. and 156 ml of n-butyllithium (0.25 mole)(1.6 M solution in hexane) are added dropwise thereto. After about 30 minutes the temperature is allowed to attain 0° C. and stirring is effected for 15 minutes. 45 ml (0.167 mole) of tributylstannyl chloride are then added to the reaction mixture. After 1 hour, a water/ice mixture is added with extreme caution. Extraction is carried out with ethyl ether, the organic phase is washed with water, drying is effected over sodium sulphate and the solvent is evaporated off under reduced pressure. 70 g of crude product are obtained which are purified by silica gel column chromatography in eluting with a cyclohexane/ethyl acetate mixture=95/5. The title compound is obtained as an oil.

reactant | 1-benzyl-4-piperidone | 0.0837 mole, 15.85 g | C(C1=CC=CC=C1)N1CCC(CC1)=O | C12H15NO
reactant | n-butyllithium | 0.25 mole, 1.6 M, 156 ml | C(CCC)[Li]
reactant | tributylstannyl chloride | 0.167 mole, 45 ml | C(CCC)[Sn](CCCC)(CCCC)Cl
solvent | dimethoxyethane | 140 ml | C(OC)COC | C4H10O2
solvent | dimethoxyethane | 140 ml | C(OC)COC | C4H10O2
product | (1-benzyl-1,2,3,6-tetrahydropyrid-4-yl)tributylstannane | C(C1=CC=CC=C1)N1CCC(=CC1)[Sn](CCCC)(CCCC)CCCC | InChI=1S/C12H14N.3C4H9.Sn/c1-3-7-12(8-4-1)11-13-9-5-2-6-10-13;3*1-3-4-2;/h1,3-5,7-8H,6,9-11H2;3*1,3-4H2,2H3;
